US05712378
Preparation of 1'-ethoxy-3',5',5-tris(methoxybenzyl)thymidine
1'-bromo-3',5',5-tris(methoxybenzyl)thymidine in ethanol is added to a stirred solution of sodium ethoxide in ethanol at -10 ° C. The resulting reaction mixture is stirred at room temperature fro 1 h, neutralized with dilute hydrochloric acid. Ethanol is evaporated and the remaining mixture extracted with ethyl acetate. The crude is purified by chromatography to give a mixture of α and β diasteriomers.

reactant | 1'-bromo-3',5',5-tris(methoxybenzyl)thymidine | Br[C@@]1(C[C@](O)([C@@H](C(O)C(C2=CC=CC=C2)OC)O1)C(C1=CC=CC=C1)OC)N1C(=O)NC(=O)C(C)(C1)C(C1=CC=CC=C1)OC | C34H39BrN2O8
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1'-ethoxy-3',5',5-tris(methoxybenzyl)thymidine | C(C)O[C@@]1(C[C@](O)([C@@H](C(O)C(C2=CC=CC=C2)OC)O1)C(C1=CC=CC=C1)OC)N1C(=O)NC(=O)C(C)(C1)C(C1=CC=CC=C1)OC | C36H44N2O9
